US03984427
A solution of the ethyl β-pyrrolidinocrotonate (427 g. = 2.33 moles), 190 ml. (182 g., 2.43 mole) of nitroethane and 1300 ml. of triethylamine in 1200 ml. of anhydrous chloroform was cooled in an ice bath under nitrogen. A solution of 235 ml. (393 g. = 2.56 mole) of phosphorus oxychloride in 400 ml. of chloroform was added at such a rate that the temperature did not rise above 15°. During the addition, which took place over a three-hour period, a viscous orange precipitate formed. This suspension was then stirred under nitrogen overnight. As much solvent as possible was removed at reduced pressure and the resulting red-brown paste was diluted with water and extracted with ether. The ether solutions were washed sequentially with water, 3N hydrochloric acid, water, 5 percent sodium hydroxide solution and water, and were dried over anhydrous sodium sulfate. Solvent removal at reduced pressure gave a dark oil which was distilled through a short Vigreux column to give 4-carboethoxy-3,5-dimethyl-isoxazole as a slightly cloudy, colorless liquid of b.p. 100°/11 mm.

reactant | ethyl β-pyrrolidinocrotonate | 2.33 moles, 427 g | N1(CCCC1)\C(=C/C(=O)OCC)\C | C10H17NO2
reactant | nitroethane | 2.43 mole, 182 g | [N+](=O)([O-])CC | C2H5NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 2.56 mole, 393 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-carboethoxy-3,5-dimethyl-isoxazole | C(=O)(OCC)C=1C(=NOC1C)C | C8H11NO3
